US07902373B2
Step D: Preparation of Ethyl 4-({[6-(3,5-difluorophenyl)pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate
6-(3,5-difluoro-phenyl)-nicotinic acid (55 mg, 0.23 mmol), HOBt (40 mg, 0.29 mmol), ethyl 4-aminopiperidine-1-carboxylate (23 mg, 0.13 mmol), and PS-carbodimide (350 mg) in DCM (5 ml) was shaken 12 h. After shaking, PS-trisamine (3 mg) was added and the reaction shaken for 4 h, then filtered and washed with 15% MeOH/DCM. The organic was concentrated and purified by reversed phase automatic chromatography to provide 8.3 mg (9%) of the title compound. 1H NMR (400 MHz, DMSO-d6) □ ppm 9.08 (1H, d, J=1.5 Hz), 8.51 (1H, d, J=7.3 Hz), 8.31 (1H, dd, J=8.2, 2.4 Hz), 8.19 (1 h, d, J=8.8 Hz), 7.89 (2H, br. s.), 4.03 (2H, br. s.), 4.05 (4H, d, J=7.3 Hz), 2.94 (2H, br. s.), 1.85 (2H, d, J=13.5 Hz), 1.48 (2H, br. s.), 1.20 (3H, t, J=7.1 Hz).

reactant | 6-(3,5-difluoro-phenyl)-nicotinic acid | 0.23 mmol, 55 mg | FC=1C=C(C=C(C1)F)C1=NC=C(C(=O)O)C=C1 | C12H7F2NO2
reactant | HOBt | 0.29 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyl 4-aminopiperidine-1-carboxylate | 0.13 mmol, 23 mg | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | carbodimide | 350 mg | N=C=N | CH2N2
reactant | trisamine | 3 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-({[6-(3,5-difluorophenyl)pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate | 8.3 mg, 9% | FC=1C=C(C=C(C1)F)C1=CC=C(C=N1)C(=O)NC1CCN(CC1)C(=O)OCC | C20H21F2N3O3
